US06444672B1
85i. [1-(1-amino-7-isoquinolinylmethyl)-2-oxopyrrolidin-3-(S)yl]carbamic acid tert-butyl ester
To a solution of 0.3 g of Boc-L-Asp(H)-OBn (WO 96/40679) dissolved in 2 mL methanol was added 176 mg of 1-amino-7-(aminomethyl)isoquinoline. After stirring for 30 minutes, a solution of 80 mg sodium cyanoborohydride and 90 mg zinc chloride in 2 mL methanol was added. The mixture was stirred for an additional two hours. After this time, 7 mL of an aqueous 0.2 N sodium hydroxide solution was added and the resulting mixture was concentrated. The residue was treated with 100 mL dichloromethane and 10 mL water, filtered and an additional 100 mL water was added to the filtrate. The organic layer was separated and washed with aqueous 5% sodium hydrogencarbonate and brine. All aqueous layers were washed twice with dichloromethane. The combined organic layers were dried over sodium sulfate and concentrated. The residue was purified by column chromatography on silica gel eluting with a gradient of ethyl acetate/dichloromethane/methanol=10/10/1 to dichloromethane/methanol=10/1 to give 146 mg of the title compound.

reactant | Boc-L-Asp(H)-OBn | 0.3 g | N([C@@H](CC(O)=O)C(=O)OCC1=CC=CC=C1)C(=O)OC(C)(C)C | C16H21NO6
reactant | 1-amino-7-(aminomethyl)isoquinoline | 176 mg | NC1=NC=CC2=CC=C(C=C12)CN | C10H11N3
reactant | sodium cyanoborohydride | 80 mg | C(#N)[BH3-].[Na+]
reactant | sodium hydroxide | 0.2 N | [OH-].[Na+]
solvent | methanol | 2 mL | CO | CH4O
solvent | methanol | 2 mL | CO | CH4O
catalyst | zinc chloride | 90 mg | [Cl-].[Zn+2].[Cl-]
product | [1-(1-amino-7-isoquinolinylmethyl)-2-oxopyrrolidin-3-(S)yl]carbamic acid tert-butyl ester | 146 mg | C(C)(C)(C)OC(N[C@@H]1C(N(CC1)CC1=CC=C2C=CN=C(C2=C1)N)=O)=O | C19H24N4O3
